US06506757B1
3-(2-(5-methyl-2-phenyloxazol-4-yl)ethoxy)benzaldehyde
2-(5-methyl-2-phenyloxazol-4-yl)ethanol (1.02 g), 3-hydroxybenzaldehyde (0.73 g) and triphenylphosphine (1.57 g) were dissolved in dichloromethane (10 ml) and thereto was added 1,1′(azodicarbonyl)dipiperidine (1.74 g) at 0° C. and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added hexane and the solid was filtered off. The filtrate was concentrated. The residue was purified by column chromatography on silica gel (methanol:chloroform=1:100) to give the title compound (1.30 g) having the following physical data.

reactant | 2-(5-methyl-2-phenyloxazol-4-yl)ethanol | 1.02 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | 3-hydroxybenzaldehyde | 0.73 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | triphenylphosphine | 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′(azodicarbonyl)dipiperidine | 1.74 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 3-(2-(5-methyl-2-phenyloxazol-4-yl)ethoxy)benzaldehyde | 1.30 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC=1C=C(C=O)C=CC1 | C19H17NO3
